US04472433
A mixture of ethyl 2-(2-nitro-3-chlorophenyl)acetate (10 g.), 4-chlorophenol (7.8 g.), anhydrous potassium carbonate (8.5 g.) and cupric oxide (3 g.) was treated in a similar manner to the above Preparations to give 2-[2-nitro-3-(4-chlorophenoxy)phenyl]acetic acid (6.9 g.). mp 167° to 170° C.

reactant | ethyl 2-(2-nitro-3-chlorophenyl)acetate | 10 g | [N+](=O)([O-])C1=C(C=CC=C1Cl)CC(=O)OCC | C10H10ClNO4
reactant | 4-chlorophenol | 7.8 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | potassium carbonate | 8.5 g | C([O-])([O-])=O.[K+].[K+]
product | 2-[2-nitro-3-(4-chlorophenoxy)phenyl]acetic acid | 6.9 g | [N+](=O)([O-])C1=C(C=CC=C1OC1=CC=C(C=C1)Cl)CC(=O)O | C14H10ClNO5
